US09034900B2
Step 1: 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one
A mixture of 4-bromo-2-methylisoquinolin-1-one (8.0 g, 33.6 mmol), bis(pinacolato)diboron (17.1 g, 67.2 mmol), KOAc (6.6 g, 67.2 mmol), Pd2(dba)3 (3.1 g, 3.36 mmol) and X-Phos (1.6 g, 3.36 mmol) in anhydrous dioxane (200 mL) was stirred at 60° C. for 12 h. The reaction mixture was concentrated and the residue was purified by column chromatography on silica gel (PE:EA=15:1) to give the title compound (6.0 g, 62%) as a solid.

reactant | 4-bromo-2-methylisoquinolin-1-one | 33.6 mmol, 8.0 g | BrC1=CN(C(C2=CC=CC=C12)=O)C | C10H8BrNO
reactant | bis(pinacolato)diboron | 67.2 mmol, 17.1 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 67.2 mmol, 6.6 g | CC(=O)[O-].[K+]
reactant | X-Phos | 3.36 mmol, 1.6 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 3.36 mmol, 3.1 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one | 6.0 g, 62% | CN1C(C2=CC=CC=C2C(=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H20BNO3
